US06953806B2
A solution of 250 mg (0.63 mmol) of trans-[4-(3-chloro-prop-1-ynyl)cyclohexyl-methyl]-methyl-carbamic acid 4-fluoro-phenyl ester with a catalytic amount of NaI in 7 ml of methanol was treated with 0.65 ml (6.3 mmol) of N-methylpropylamine and stirred over night at room temperature. The solvent was evaporated and the residue extracted with aqueous saturated NaHCO3/ether (3×). The organic phase was dried with sodium sulfate, filtered and evaporated. Purification by flash column chromatography on silica gel (methylenechloride/methanol 98:2) gave 218 mg (93%) of pure trans-methyl-{4-[3-(methyl-propyl-amino)-prop-1-ynyl]-cyclohexylmethyl}-carbamic acid 4-fluoro-phenyl ester as light brown oil, MS: 375 (MH+).

reactant | trans-[4-(3-chloro-prop-1-ynyl)cyclohexyl-methyl]-methyl-carbamic acid 4-fluoro-phenyl ester | 0.63 mmol, 250 mg | FC1=CC=C(C=C1)OC(N(C)C[C@@H]1CC[C@H](CC1)C#CCCl)=O | C18H21ClFNO2
reactant | NaI | [Na+].[I-]
reactant | N-methylpropylamine | 6.3 mmol, 0.65 ml | CNCCC | C4H11N
solvent | methanol | 7 ml | CO | CH4O
product | trans-methyl-{4-[3-(methyl-propyl-amino)-prop-1-ynyl]-cyclohexylmethyl}-carbamic acid 4-fluoro-phenyl ester | 218 mg, 93% | FC1=CC=C(C=C1)OC(N(C[C@@H]1CC[C@H](CC1)C#CCN(CCC)C)C)=O | C22H31FN2O2
